US06689923B2
Under argon atmosphere, 1.9 mmol (852 mg) of hexafluoropropene trimer mixture [including 5 wt % of perfluoro-(3-ethyl-2,4-dimethyl-2-pentene)] comprising perfluoro-(4-methyl-3-isopropyl-2-pentene) as a main component was put in a 100 ml egg-plant-shaped flask with a three-way stopcock having a magnet stirrer made of Teflon (R) therein. Then, 10 ml of anhydrous ether dry-distilled on sodium was added into the mixture, and stirringly dissolved therein. 1.5 ml (2.3 mmol) of ether solution containing 1.5M methyl lithium—lithium bromide complex was dropped into the mixture from a dropping funnel in the interval of about 5 minutes, while maintaining the mixture at about 0° C. by cooling the reaction vessel in ice. When the reaction is completed after continuously stirring at about 0° C. for about 5 hours, the resulting reacted mixture became a white suspension. Then, the reaction vessel was returned to room temperature, and the solvent and products were subjected to distillation under a vacuum of 1 mmHg to remove a solid component. The distilled component was subjected to re-distillation under normal pressure to remove the ether solvent. As a result, a mixture of 2-methyl-perfluoro-(4-methyl-3-isopropyl-2-pentene) and 4-methyl-perfluoro-(2-methyl-3-isopropyl-2-pentene) was obtained. The respective structures of the obtained compounds were determined by the 19F—NMR, 1H—NMR, GC—MS and others. The yields of 2-methyl-perfluoro-(4-methyl-3-isopropyl-2-pentene) and 4-methyl-perfluoro-(2-methyl-3-isopropyl-2-pentene) calculated from the integral ratio of the peak areas of the NMR spectrums were about 45% and 19%, respectively.

reactant | hexafluoropropene trimer | 1.9 mmol, 852 mg | C(=C(F)F)(C(F)(F)F)F.C(=C(F)F)(C(F)(F)F)F.C(=C(F)F)(C(F)(F)F)F | 3C3F6
reactant | perfluoro-(4-methyl-3-isopropyl-2-pentene) | FC(C(=C(C(C(F)(F)F)(C(F)(F)F)F)C(C(F)(F)F)(C(F)(F)F)F)F)(F)F | C9F18
reactant | ether | 2.3 mmol, 1.5 ml | CCOCC | C4H10O
product | 4-methyl-perfluoro-(2-methyl-3-isopropyl-2-pentene) | CC(C(=C(C(F)(F)F)C(F)(F)F)C(C(F)(F)F)(C(F)(F)F)F)(C(F)(F)F)F | C10H3F17
